.subckt ins1 1 2
S1 1 2 2 N001 G
S2 2 1 N001 2 G
R1 1 N001 100Meg
C1 N001 2 {Tau/100Meg}
.model G SW(Ron={Zon} Roff=1T Vt={.5*(Vstrike+Vhold)} Vh={.5*(Vstrike-Vhold)} Vser={Vhold-Ihold*Zon})
.param Vstrike=80 Vhold=55 Zon=2K Ihold=200u Tau=100u
.ends ins1